* Arm A oscillator 5: distributed RC from SPEF
* auto-generated by gen_rc_decks.py
.lib "/home/pc/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/home/pc/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice"
.param SUPPLY=1.8
Vdd VPWR 0 {SUPPLY}
Ven EN 0 PULSE(0 1.8 2n 50p 50p 1 2)

* --- Arm A oscillator 5: nand + 30 inverters + tap buffer ---
Xnand EN nand_B 0 0 VPWR VPWR nand_Y sky130_fd_sc_hd__nand2_1
Xi1 i1_A 0 0 VPWR VPWR i1_Y sky130_fd_sc_hd__inv_1
Xi2 i2_A 0 0 VPWR VPWR i2_Y sky130_fd_sc_hd__inv_1
Xi3 i3_A 0 0 VPWR VPWR i3_Y sky130_fd_sc_hd__inv_1
Xi4 i4_A 0 0 VPWR VPWR i4_Y sky130_fd_sc_hd__inv_1
Xi5 i5_A 0 0 VPWR VPWR i5_Y sky130_fd_sc_hd__inv_1
Xi6 i6_A 0 0 VPWR VPWR i6_Y sky130_fd_sc_hd__inv_1
Xi7 i7_A 0 0 VPWR VPWR i7_Y sky130_fd_sc_hd__inv_1
Xi8 i8_A 0 0 VPWR VPWR i8_Y sky130_fd_sc_hd__inv_1
Xi9 i9_A 0 0 VPWR VPWR i9_Y sky130_fd_sc_hd__inv_1
Xi10 i10_A 0 0 VPWR VPWR i10_Y sky130_fd_sc_hd__inv_1
Xi11 i11_A 0 0 VPWR VPWR i11_Y sky130_fd_sc_hd__inv_1
Xi12 i12_A 0 0 VPWR VPWR i12_Y sky130_fd_sc_hd__inv_1
Xi13 i13_A 0 0 VPWR VPWR i13_Y sky130_fd_sc_hd__inv_1
Xi14 i14_A 0 0 VPWR VPWR i14_Y sky130_fd_sc_hd__inv_1
Xi15 i15_A 0 0 VPWR VPWR i15_Y sky130_fd_sc_hd__inv_1
Xi16 i16_A 0 0 VPWR VPWR i16_Y sky130_fd_sc_hd__inv_1
Xi17 i17_A 0 0 VPWR VPWR i17_Y sky130_fd_sc_hd__inv_1
Xi18 i18_A 0 0 VPWR VPWR i18_Y sky130_fd_sc_hd__inv_1
Xi19 i19_A 0 0 VPWR VPWR i19_Y sky130_fd_sc_hd__inv_1
Xi20 i20_A 0 0 VPWR VPWR i20_Y sky130_fd_sc_hd__inv_1
Xi21 i21_A 0 0 VPWR VPWR i21_Y sky130_fd_sc_hd__inv_1
Xi22 i22_A 0 0 VPWR VPWR i22_Y sky130_fd_sc_hd__inv_1
Xi23 i23_A 0 0 VPWR VPWR i23_Y sky130_fd_sc_hd__inv_1
Xi24 i24_A 0 0 VPWR VPWR i24_Y sky130_fd_sc_hd__inv_1
Xi25 i25_A 0 0 VPWR VPWR i25_Y sky130_fd_sc_hd__inv_1
Xi26 i26_A 0 0 VPWR VPWR i26_Y sky130_fd_sc_hd__inv_1
Xi27 i27_A 0 0 VPWR VPWR i27_Y sky130_fd_sc_hd__inv_1
Xi28 i28_A 0 0 VPWR VPWR i28_Y sky130_fd_sc_hd__inv_1
Xi29 i29_A 0 0 VPWR VPWR i29_Y sky130_fd_sc_hd__inv_1
Xi30 i30_A 0 0 VPWR VPWR i30_Y sky130_fd_sc_hd__inv_1
Xbuf buf_A 0 0 VPWR VPWR buf_X sky130_fd_sc_hd__buf_1

Rn0_0 nand_Y i1_A 20.2563
Cg0 i1_A 0 7.163090e-17
Cg1 nand_Y 0 7.163090e-17
Cc0 i1_A i30_A 4.475160e-18
Cc1 i1_A nand_B 7.832400e-17
Rn1_1 i1_Y i2_A 31.4973
Cg2 i2_A 0 2.296760e-16
Cg3 i1_Y 0 2.296760e-16
Cc2 i2_A nand_B 2.100430e-16
Cx0 i2_A 0 0.000000e+00
Cx1 i2_A 0 4.798420e-17
Rn10_2 i10_Y i11_A 20.8277
Cg4 i11_A 0 1.220030e-16
Cg5 i10_Y 0 1.220030e-16
Cc3 i11_A i10_A 5.553100e-17
Cc4 i11_A i12_A 2.629080e-17
Cc5 i11_A i9_A 0.000000e+00
Rn11_3 i11_Y i12_A 31.9080
Cg6 i12_A 0 2.666050e-16
Cg7 i11_Y 0 2.666050e-16
Cc6 i12_A i14_A 8.488220e-18
Cx2 i12_A 0 6.518500e-17
Cx3 i12_A 0 1.298680e-16
Rn12_4 i12_Y i13_A 19.4973
Cg8 i13_A 0 4.789670e-17
Cg9 i12_Y 0 4.789670e-17
Cc7 i13_A i14_A 3.279430e-17
Rn13_5 i13_Y i14_A 31.8009
Cg10 i14_A 0 2.395780e-16
Cg11 i13_Y 0 2.395780e-16
Cx4 i14_A 0 1.377430e-17
Cx5 i14_A 0 7.603060e-17
Cx6 i14_A 0 1.523400e-16
Rn14_6 i14_Y i15_A 19.4973
Cg12 i15_A 0 5.499650e-17
Cg13 i14_Y 0 5.499650e-17
Cx7 i15_A 0 4.429220e-17
Rn15_7 i15_Y s1557_6 10.8625
Rn15_8 s1557_6 buf_A 24.7821
Rn15_9 s1557_6 i16_A 9.5813
Cg14 i16_A 0 1.270150e-17
Cg15 buf_A 0 1.902540e-16
Cg16 i15_Y 0 7.453400e-17
Cg17 s1557_6 0 2.774890e-16
Cx8 i16_A 0 9.294720e-18
Cx9 s1557_6 0 8.840910e-17
Cx10 buf_A 0 4.377560e-16
Cx11 buf_A 0 4.377560e-16
Cx12 buf_A 0 0.000000e+00
Cx13 buf_A 0 1.713680e-16
Rn16_10 i16_Y i17_A 20.7295
Cg18 i17_A 0 8.509850e-17
Cg19 i16_Y 0 8.509850e-17
Cx14 i17_A 0 1.266740e-16
Rn17_11 i17_Y i18_A 32.2116
Cg20 i18_A 0 2.772800e-16
Cg21 i17_Y 0 2.772800e-16
Cx15 i18_A 0 2.405910e-16
Cx16 i18_A 0 1.530400e-16
Cx17 i18_A 0 3.000230e-17
Rn18_12 i18_Y i19_A 19.4973
Cg22 i19_A 0 3.038620e-17
Cg23 i18_Y 0 3.038620e-17
Cx18 i19_A 0 9.572150e-17
Rn19_13 i19_Y i20_A 19.9080
Cg24 i20_A 0 4.429440e-17
Cg25 i19_Y 0 4.429440e-17
Cx19 i20_A 0 1.395340e-16
Rn2_14 i2_Y i3_A 19.4973
Cg26 i3_A 0 5.339630e-17
Cg27 i2_Y 0 5.339630e-17
Rn20_15 i20_Y i21_A 30.2652
Cg28 i21_A 0 1.742060e-16
Cg29 i20_Y 0 1.742060e-16
Cx20 i21_A 0 7.713030e-17
Rn21_16 i21_Y i22_A 19.4973
Cg30 i22_A 0 5.354050e-17
Cg31 i21_Y 0 5.354050e-17
Rn22_17 i22_Y i23_A 30.1134
Cg32 i23_A 0 1.841620e-16
Cg33 i22_Y 0 1.841620e-16
Cc8 i23_A i24_A 2.354100e-17
Cc9 i23_A i25_A 1.407490e-17
Rn23_18 i23_Y i24_A 21.2563
Cg34 i24_A 0 1.166400e-16
Cg35 i23_Y 0 1.166400e-16
Cc10 i24_A i25_A 6.142330e-17
Rn24_19 i24_Y i25_A 21.5866
Cg36 i25_A 0 1.803620e-16
Cg37 i24_Y 0 1.803620e-16
Cc11 i25_A i26_A 1.377430e-17
Rn25_20 i25_Y i26_A 31.9348
Cg38 i26_A 0 2.776990e-16
Cg39 i25_Y 0 2.776990e-16
Cc12 i26_A i27_A 5.476610e-17
Rn26_21 i26_Y i27_A 20.8277
Cg40 i27_A 0 9.646090e-17
Cg41 i26_Y 0 9.646090e-17
Cc13 i27_A i28_A 4.411310e-17
Rn27_22 i27_Y i28_A 21.1313
Cg42 i28_A 0 1.167970e-16
Cg43 i27_Y 0 1.167970e-16
Cc14 i28_A i29_A 3.463090e-17
Rn28_23 i28_Y i29_A 21.5420
Cg44 i29_A 0 1.495480e-16
Cg45 i28_Y 0 1.495480e-16
Cc15 i29_A i30_A 2.629080e-17
Rn29_24 i29_Y i30_A 21.7920
Cg46 i30_A 0 1.889300e-16
Cg47 i29_Y 0 1.889300e-16
Cc16 i30_A nand_B 1.876180e-17
Rn3_25 i3_Y i4_A 19.4973
Cg48 i4_A 0 6.996900e-17
Cg49 i3_Y 0 6.996900e-17
Rn30_26 i30_Y nand_B 22.2339
Cg50 nand_B 0 1.587140e-16
Cg51 i30_Y 0 1.587140e-16
Rn4_27 i4_Y i5_A 31.6402
Cg52 i5_A 0 2.303430e-16
Cg53 i4_Y 0 2.303430e-16
Cc17 i5_A i6_A 8.046210e-17
Cc18 i5_A i8_A 0.000000e+00
Cx21 i5_A 0 1.281540e-16
Rn5_28 i5_Y i6_A 20.8277
Cg54 i6_A 0 1.089330e-16
Cg55 i5_Y 0 1.089330e-16
Cc19 i6_A i7_A 3.421330e-17
Rn6_29 i6_Y i7_A 21.1313
Cg56 i7_A 0 1.621470e-16
Cg57 i6_Y 0 1.621470e-16
Cc20 i7_A i8_A 2.609490e-17
Cc21 i7_A i9_A 0.000000e+00
Rn7_30 i7_Y i8_A 21.1313
Cg58 i8_A 0 1.410720e-16
Cg59 i7_Y 0 1.410720e-16
Cc22 i8_A i10_A 0.000000e+00
Cc23 i8_A i9_A 3.028690e-17
Rn8_31 i8_Y i9_A 21.1313
Cg60 i9_A 0 1.488970e-16
Cg61 i8_Y 0 1.488970e-16
Cc24 i9_A i10_A 3.028690e-17
Rn9_32 i9_Y i10_A 21.2027
Cg62 i10_A 0 1.344520e-16
Cg63 i9_Y 0 1.344520e-16
Rout_33 buf_X s1582_28 46.9432
Cg64 buf_X 0 1.621180e-15
Cg65 s1582_28 0 2.055930e-15
Cx22 s1582_28 0 4.196240e-18
Cx23 s1582_28 0 2.354100e-17
Cx24 s1582_28 0 5.417940e-17
Cx25 s1582_28 0 2.026770e-16
Cx26 s1582_28 0 6.960610e-16
Cx27 s1582_28 0 6.149300e-16
Cx28 s1582_28 0 0.000000e+00

.save v(buf_X)
.tran 1p 140n
.control
run
meas tran tp TRIG v(buf_X) VAL=0.9 RISE=5 TARG v(buf_X) VAL=0.9 RISE=25
let f = 20 / tp
print f
.endc
.end
